US04130579
In a 1-liter flask, equipped as described in Example 10(a), was put 6.54 g of 4,4'-bis(2-methyl-2-cyanopropyl)biphenyl and 400 ml of reagent grade toluene which had been passed through acid alumina under nitrogen directly into the reaction vessel. With stirring at room temperature, 71 ml of a 25% solution of diisobutylaluminum hydride in toluene was added in 30 minutes. The mixture was then refluxed for 17 hrs 40 min. After the mixture had been cooled in an ice-water bath, a solution of 5 ml of water in 22 ml of methanol was added dropwise with stirring in 1 hr. This was followed by the dropwise addition of a solution of 20 ml of water in 40 ml of methanol in 1 hr. The mixture was stirred for 1 hr while being cooled in the ice bath and for 1 hr at room temperature. It then stood at room temperature for one day. The mixture was filtered under nitrogen, the solid was washed thoroughly with toluene on the filter, and the combined filtrate and rinsings were distilled on the water pump. The resulting solid, after drying in vacuo, weighed 5.5 g and melted at 97°-99°. Sublimation at 185°-200°/0.10 mm gave 4,4'-bis(2,2-dimethyl-3-aminopropyl)biphenyl as a colorless crystalline solid.

reactant | 4,4'-bis(2-methyl-2-cyanopropyl)biphenyl | 6.54 g | CC(CC1=CC=C(C=C1)C1=CC=C(C=C1)CC(C)(C)C#N)(C)C#N | C22H24N2
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | water | 5 ml | O | H2O
reactant | water | 20 ml | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 22 ml | CO | CH4O
solvent | methanol | 40 ml | CO | CH4O
product | 4,4'-bis(2,2-dimethyl-3-aminopropyl)biphenyl | CC(CC1=CC=C(C=C1)C1=CC=C(C=C1)CC(CN)(C)C)(CN)C | C22H32N2
